US07790770B2
An ether solution (40 mL) of 1-bromo-3-fluoro-5-(trifluoromethyl)benzene (2.0 g, 8.23 mmol) was stirred in an oven-dried round bottom flask at −78° C. under Ar. n-BuLi (2.5 M in hexanes, 3.6 ml, 9.05 mmol, 1.1 eq) was added dropwise. The resulting solution was stirred at −78° C. for 30 min. A solution of 4-fluoro-3-(trifluoromethyl)benzonitrile (1.55 g, 8.23 mmol, 1.0 eq) in Et2O (5 mL) was added dropwise. The resulting reddish mixture was stirred at −78° C. for 2 h. TMSCl (pretreated with Et3N (TMSCl:Et3N=10:1, v:v), 1.14 mL, 1.2 eq) was added dropwise. The dry ice bath was removed, and the resulting slurry was stirred at room temperature for 2 h. The reaction was cooled to −78° C. and a solution of benzyl magnesium chloride in THF (2.0 M, 8.4 mL, 2 eq) was added dropwise. The resulting mixture was slowly warmed up to room temperature and stirred at room temperature overnight. 1N HCl (100 mL) was added. The mixture was stirred at room temperature for 30 min, extracted with Et2O (2×), washed with 1N NaOH, H2O and brine, dried over Na2SO4, filtered, and concentrated to dryness. The residue was purified by flash column chromatography (silica gel, hexanes:ethyl acetate) to give 1-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine (1.6 g, yield: 44%). LC-MS ESI 3.42 min 429.2 (M−NH3+H); NMR (400 MHz, CHLOROFORM-D) δ ppm 7.66 (dd, J=6.7, 2.3 Hz, 1H), 7.49-7.59 (m, 1H), 7.45 (s, 1H), 7.18-7.30 (m, 6H), 6.74 (d, J=6.9 Hz, 2H), 3.57 (m, 2H).

reactant | 1-bromo-3-fluoro-5-(trifluoromethyl)benzene | 8.23 mmol, 2.0 g | BrC1=CC(=CC(=C1)C(F)(F)F)F | C7H3BrF4
reactant | n-BuLi | 9.05 mmol, 2.5 M, 3.6 ml, 1.1 eq | [Li]CCCC
reactant | 4-fluoro-3-(trifluoromethyl)benzonitrile | 8.23 mmol, 1.55 g, 1.0 eq | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | TMSCl | 1.14 mL, 1.2 eq | C[Si](C)(C)Cl | C3H9ClSi
reactant | benzyl magnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | THF | 2.0 M, 8.4 mL, 2 eq | C1CCOC1 | C4H8O
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | ether | 40 mL | CCOCC | C4H10O
product | 1-(4-fluoro-3-(trifluoromethyl)phenyl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine | 1.6 g, yield: 44% | FC1=C(C=C(C=C1)C(CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)C(F)(F)F)F)C(F)(F)F | C22H15F8N
